US07777047B2
N-{2-(benzylthio)-3-[4-(methylsulfonyl)piperazin-1-yl]propyl}-7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxamide
A mixture of N-[2-(benzylthio)-3-oxopropyl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxamide (0.35 g), N-methylsulfonylpiperazine (0.18 g) and 1,2-dichloroethane (8 mL) was stirred at room temperature for 20 min. Sodium triacetoxyborohydride (345 mg) was added to the reaction solution, and the mixture was stirred at room temperature for 16 hr. The reaction solution was acidified with aqueous citric acid solution, and basified with aqueous sodium hydrogencarbonate solution. The precipitated crystals were collected by filtration, washed with water and ethyl acetate, and dried to give the title compound (341 mg, yield: 43%) as colorless crystals. MS: 794 (MH+). melting point: 195-196° C.

reactant | N-[2-(benzylthio)-3-oxopropyl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxamide | 0.35 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCCS(=O)(=O)C)N(S(=O)(=O)C1=NC=CC=C1)C)C=O | C29H32N4O7S3
reactant | N-methylsulfonylpiperazine | 0.18 g | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | Sodium triacetoxyborohydride | 345 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
product | N-{2-(benzylthio)-3-[4-(methylsulfonyl)piperazin-1-yl]propyl}-7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxamide | 341 mg, yield: 43% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCCS(=O)(=O)C)N(S(=O)(=O)C1=NC=CC=C1)C)CN1CCN(CC1)S(=O)(=O)C | C34H44N6O8S4
